US04659708
B. N-[6-[4-(3,4-Dichlorophenyl)-1-piperazinyl]hexyl]-6-methoxy-4-methyl-8-quinolinamine
A cold (-40°) slurry of 0.9 g (0.007 mole) of anhydrous aluminum chloride in 20 ml of dry tetrahydrofuran was added to a cold (-30°) slurry of 0.75 g (0.02 mole) of lithium aluminum hydride in 30 ml of tetrahydrofuran. To the stirred mixture, which had been allowed to warm up to -20°, was added dropwise a solution of 2.7 g (0.0052 mole) of 4-(3,4-dichlorophenyl)-N-(6-methoxy-4-methyl-8-quinolinyl)-1-piperazinehexanamide in 30 ml of tetrahydrofuran. The mixture was stirred at -20° -0° for 3 hr, and then treated with 3.3 ml of 30% sodium hydroxide and enough water to clarify the supernatant. The supernatant was decanted from the soft white precipitate which was then washed with additional tetrahydrofuran. The decanted solvent and wash were combined, concentrated in vacuo to remove the tetrahydrofuran, and then combined with water and ether. The ether was washed, dried and concentrated to dryness in vacuo to afford 2.3 g of white solid. Recrystallization from 2-propanol afforded 2.1 g (81%) of the title compound, mp 92°-94°.

reactant | aluminum chloride | 0.007 mole, 0.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 0.02 mole, 0.75 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(3,4-dichlorophenyl)-N-(6-methoxy-4-methyl-8-quinolinyl)-1-piperazinehexanamide | 0.0052 mole, 2.7 g | ClC=1C=C(C=CC1Cl)N1CCN(CC1)CCCCCC(=O)NC=1C=C(C=C2C(=CC=NC12)C)OC | C27H32Cl2N4O2
reactant | sodium hydroxide | 3.3 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[6-[4-(3,4-Dichlorophenyl)-1-piperazinyl]hexyl]-6-methoxy-4-methyl-8-quinolinamine | 2.3 g | ClC=1C=C(C=CC1Cl)N1CCN(CC1)CCCCCCNC=1C=C(C=C2C(=CC=NC12)C)OC | C27H34Cl2N4O
